* C:\Users\lauta\OneDrive\Documentos\LTspice\Projects\TC1-Generador-Se-ales\Simulaciones\Oscilador\Puente Wien.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
R1 N005 N004 10k
R2 N004 N003 4.9K
R3 N005 N009 {R}
R4 0 N007 {R}
C1 N009 N007 .01µ
C2 N007 0 .01µ
J§Q1 N003 AGC 0 U309
D1 AGC N005 1N4148
R5 AGC 0 1Meg
C3 0 AGC .1µ
X§U2 N007 N004 +V -V N005 LT1001
X§U3 N005 OUT1 +V -V OUT1 LT1001
X§U1 NC_01 N001 +V -V N002 LT1001
R6 N002 N001 10k
R7 N001 OUT1 1k
X§U6 N002 OUT2 +V -V OUT2 LT1001
X§U4 0 OUT2 +V -V N008 RH1028
X§U5 N008 N006 +V -V N006 RH1028
.model D D
.lib C:\Users\lauta\AppData\Local\LTspice\lib\cmp\standard.dio
.model NJF NJF
.model PJF PJF
.lib C:\Users\lauta\AppData\Local\LTspice\lib\cmp\standard.jft
.tran 0 .5 0 10u startup
* This example schematic is supplied for informational/educational purposes only.
* .step param R 1k 100k 10k
.param R 5k
.lib LTC.lib
.lib RH1028.sub
.backanno
.end
