* C:\Users\lauta\OneDrive\Documentos\LTspice\Projects\TC1-Generador-Se-ales\Simulaciones\Oscilador\Puente Wien.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
R1 N007 N006 10k
R2 N006 N005 4.9K
R3 N007 N012 {R}
R4 0 N009 {R}
C1 N012 N009 .01µ
C2 N009 0 .01µ
J§Q1 N005 AGC 0 U309
D1 AGC N007 1N4148
R5 AGC 0 1Meg
C3 0 AGC .1µ
X§U2 N009 N006 +V -V N007 LT1001
X§U3 N007 OUT1 +V -V OUT1 LT1001
X§U1 0 N003 +V -V N004 LT1001
R6 N004 N003 10k
R7 N003 OUT1 1k
X§U6 N004 OUT2 +V -V OUT2 LT1001
X§U4 0 OUT2 +V -V N008 RH1028
X§U5 N008 OUT3 +V -V OUT3 RH1028
C4 N001 N002 .1µ
R8 N001 OUT3 1k
X§U7 0 N001 +V -V N002 RH1028
X§U8 N002 OUT4 +V -V OUT4 RH1028
C5 N013 N010 .1µ
R9 N011 N010 1k
X§U9 0 N010 +V -V N011 RH1028
X§U10 N011 OUT5 +V -V OUT5 RH1028
.model D D
.lib C:\Users\lauta\AppData\Local\LTspice\lib\cmp\standard.dio
.model NJF NJF
.model PJF PJF
.lib C:\Users\lauta\AppData\Local\LTspice\lib\cmp\standard.jft
.tran 0 .5 0 10u startup
* This example schematic is supplied for informational/educational purposes only.
* .step param R 1k 100k 10k
.param R 5k
.lib LTC.lib
.lib RH1028.sub
.backanno
.end
